US07696195B2
1e) ethyl (R)-2-hydroxy-3-(7-methyl-1H-indazol-5-yl)-propionate
A solution of 2.31 g (7.2 mmol) (1R)—B-chlorodiisopinocampheylborane in 20 mL THF was added dropwise within 30 min to a solution of 1.3 g (5.96 mmol) 3-(7-methyl-1H-indazol-5-yl)-2-oxo-propionic acid and 0.84 mL (7.2 mmol) triethylamine in 50 mL THF cooled to approx. −25° C. and the reaction mixture was kept for 1.5 h at this temperature and then heated to RT within another hour. The mixture was evaporated down i.vac., the residue was taken up in 100 mL 4 M ethanolic HCl and stirred overnight at RT. 200 mL EtOAc and 200 mL 15% K2CO3 solution were added, the organic phase was separated off and dried over Na2SO4. After the desiccant and solvent had been eliminated the residue was purified chromatographically by HPLC.

reactant | 3-(7-methyl-1H-indazol-5-yl)-2-oxo-propionic acid | 5.96 mmol, 1.3 g | CC=1C=C(C=C2C=NNC12)CC(C(=O)O)=O | C11H10N2O3
reactant | triethylamine | 7.2 mmol, 0.84 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | ethyl (R)-2-hydroxy-3-(7-methyl-1H-indazol-5-yl)-propionate | O[C@@H](C(=O)OCC)CC=1C=C2C=NNC2=C(C1)C | C13H16N2O3
